Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Keppra / Seroquel / Keflex
 
Attending: ___
 
Chief Complaint:
Dark stools
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of Hepatitis C (untx), seizures, and drug use who
presents following heroin overdose s/p Narcan who was found to
have dark stools and emesis in the ED and admitted for possible
GIB. 

Pt was reportedly found in a ___ bathroom nonresponsive 
and
CPR was started. He then received Narcan x2 and recovered. He 
was
brought to the ED. Vitals were afebrile, HR 74, BP 134/93, RR 
12,
and o2sat 98% on RA. In ED, he had episodes of dark stools and
vomiting. The stool was guiac positive. Hb 14.4 and
hemodynamically stable. GI was consulted and were unsure whether
this was an acute GIB or not and wanted to admit for monitoring. 


On the floor, pt is afebrile, BP 122/77, HR 74, RR 18, and O2 
sat
98% on RA. 
The patient doesn't recall what happened to him. The last memory
he has of today is that he was at the ___. He
doesn't know where he was going or who he was with. He doesn't
know if he did any drugs today. Following that the next thing he
remembers is waking up in the ED. He doesn't recall having any
diarrhea or vomiting in the ED or seeing any ___ doctors. He says
his memory isn't so great but it feels foggier than usual. He
says he usually has a BM every few days but doesn't think hes
ever seen blood in it or black stools but he's not sure. He does
heroin and meth sometimes but doesn't recall the last time he
used. Currently he has a mild HA and some lightheadedness (which
improved once he sat down). 

 
Past Medical History:
HepC 
seizures--not taking any meds but says he's supposed to
broken collarbone on the L one month ago
 
Social History:
___
Family History:
isn't aware of any family hx
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Disheveled, thin appearing male, alert, sitting up in
bed, and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
Adentulous. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, AxOx2 (doesn't know what yr it
is)
PSYCH: pleasant, appropriate affect

PHYSICAL EXAM ON DISCHARGE:
GENERAL: Disheveled, thin appearing male, alert, sitting up in
bed, and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate.
Edentulous. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, tattoos over bilateral
arms and posterior neck
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, AxOx2 (doesn't know what yr it
is)
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 08:44AM BLOOD WBC-9.7 RBC-4.76 Hgb-14.4 Hct-44.8 MCV-94 
MCH-30.3 MCHC-32.1 RDW-12.6 RDWSD-43.6 Plt ___
___ 08:44AM BLOOD Neuts-85.3* Lymphs-8.7* Monos-4.1* 
Eos-1.0 Baso-0.2 Im ___ AbsNeut-8.28* AbsLymp-0.84* 
AbsMono-0.40 AbsEos-0.10 AbsBaso-0.02
___ 08:44AM BLOOD ___ PTT-23.8* ___
___ 08:44AM BLOOD Glucose-88 UreaN-14 Creat-0.8 Na-144 
K-4.1 Cl-104 HCO3-24 AnGap-16
___ 04:22PM BLOOD ALT-41* AST-59* AlkPhos-93 TotBili-0.4
___ 08:44AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.8
___ 09:00AM BLOOD ___ pO2-31* pCO2-63* pH-7.29* 
calTCO2-32* Base XS-0

PERTINENT INTERVAL LABS:
========================
___ 04:22PM BLOOD WBC-11.4* RBC-4.61 Hgb-13.9 Hct-43.6 
MCV-95 MCH-30.2 MCHC-31.9* RDW-12.9 RDWSD-44.1 Plt ___
___ 06:22AM BLOOD WBC-7.2 RBC-4.35* Hgb-13.0* Hct-41.1 
MCV-95 MCH-29.9 MCHC-31.6* RDW-12.4 RDWSD-43.3 Plt ___
___ 12:45PM BLOOD WBC-6.4 RBC-4.33* Hgb-13.2* Hct-41.0 
MCV-95 MCH-30.5 MCHC-32.2 RDW-12.5 RDWSD-43.5 Plt ___
___ 06:22AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 12:45PM BLOOD HIV Ab-NEG
___ 06:22AM BLOOD HCV Ab-POS*
___ 06:22AM BLOOD HCV VL-NOT DETECT

LAB RESULTS ON DISCHARGE:
=========================
___ 06:20AM BLOOD WBC-8.1 RBC-4.59* Hgb-13.8 Hct-42.9 
MCV-94 MCH-30.1 MCHC-32.2 RDW-12.6 RDWSD-43.3 Plt ___
___ 06:20AM BLOOD ___ PTT-29.8 ___
___ 06:20AM BLOOD Glucose-92 UreaN-11 Creat-0.7 Na-141 
K-4.5 Cl-103 HCO3-27 AnGap-11
___ 06:20AM BLOOD ALT-23 AST-23 AlkPhos-83 TotBili-0.4
___ 06:20AM BLOOD ALT-23 AST-23 AlkPhos-83 TotBili-0.___ year old male with history of untreated hepatitis C, ?seizure 
disorder, and IVDU (heroin, methamphetamine) who presents 
following heroin overdose with acute hypercarbic respiratory 
failure s/p Narcan with report of dark stools and emesis in the 
ED and admitted for possible GIB. 
During stay there was no evidence of GIB and H/H remained 
stable; attempted to offer substance use resources which patient 
declined.

ACUTE/ACTIVE PROBLEMS:
# Dark stools/emesis
Patient with report of dark stool in the ED, was reportedly 
guaiac positive. GI was consulted and recommended admission for 
monitoring. Patient had no evidence of bleed on the floor, Hgb 
stable ___, on discharge 13.8. He also had no episodes of 
emesis while on the floor. Please recheck H/H in 1 week to 
ensure continued stability.

# Heroin overdose s/p Narcan
# Polysubstance abuse
# Acute hypercarbic respiratory failure
Patient was reportedly found in a ___ bathroom 
unresponsive and agonal with pinpoint pupils and needle in his 
pocket. He received Narcan x 2 and recovered. Initial vBG 
7.___/32 Patient denied that this was suicide attempt, 
although per discussion with SW does carry diagnoses of 
depression, schizoaffective disorder based on ___ records. 
Reports that he does not frequently use IV drugs, that he 
obtains his needles through a needle exchange program at ___, 
does not share them. He was unwilling to further specify 
frequency of use. He denies specifically seeking out fentanyl 
containing products. Appears that he was on suboxone in past, 
last filled in ___. Patient was seen by addiction social 
work but declined medication assisted treatment. While offered 
resources, he shared that he preferred to "follow up with AHOPE 
on his own". We also offered Substance Use Disorder Evaluation; 
Mr. ___ politely but firmly declined. He stated that he did not 
wish to talk about his substance use, additionally that he 
stopped taking suboxone "because I don't use that much" and "I 
don't even know how I got here." He did not wish to discuss 
relapse prevention or harm reduction resources.

Screened for HIV (negative), hepatitis B (immune), hepatitis A 
(nonimmune). We discussed ___ A vaccination, and gave him one 
dose on ___. I called insurance PCP who did not 
personally know patient, but will coordinate with PACT team.

# Question of high risk sexual behavior
Patient appeared to be on ___ as outpatient, last filled in 
___, and he notes that he was recently tested and HIV 
negative. He shared that this was for PrEP. He is sexually 
active with males. HIV testing negative. He is not sure why he 
stopped taking Truvada, is interested in PrEP again. Otherwise, 
offered STD screening for syphilis, GC/CT as well- he declined, 
sharing that he had recent testing which was negative. Notably 
he also shares that he was given meningitis vaccine.

# Pyuria: Patient with 33 WBC on U/A, however without any 
urinary symptoms. Urine culture was contaminated. Given no clear 
evidence of infection, he was not started on antibiotics.

# Transaminitis: Initially with slight transaminitis ALT 41 AST 
59 Alkphos 93 Tbili 0.4 then normalized to ALT 23 AST 23 Alkphos 
83 Tbili 0.4

CHRONIC/STABLE PROBLEMS:
# Homelessness: Patient shares that he lives on street, and is 
aware of homeless shelters/day shelters. He does not want to 
utilize them. In the winter, he also does not use shelters per 
his report. He declined further conversation or offer of 
resources, although he did share his intention to follow up with 
___ for the Homeless

# HepC:
Hepatitis C viral load is negative this stay.

# Seizure disorder: Unclear history, patient reports he was on 
Keppra in past but that he stopped this years ago; additionally 
has Keppra listed as an allergy, although reaction unknown. 
Would continue to clarify.

TRANSITIONAL ISSUES:
====================
[] Discharge Hgb 13.8, please recheck in 1 week to ensure stable
[] Patient provided with Narcan script
[] Ongoing discussion of substance use disorder as well as harm 
reduction
[] S/p HAV vaccine ___
[] Please continue to discuss PrEP with patient
[] Please clarify ?seizure disorder history, no evidence of this 
during stay
- Note HCV viral load negative this stay
 
Medications on Admission:
None
 
Discharge Medications:
1.  Naloxone Nasal Spray 4 mg IH ONCE MR1 Duration: 1 Dose 
RX *naloxone [Narcan] 4 mg/actuation 1 spray intranasal once MR 
once ___ #*2 Spray Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Opioid overdose
Opioid use disorder
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You were admitted to us after an overdose of heroin. There was 
concern for gastrointestinal bleeding in our emergency 
department. While you were here, we monitored your stools as 
well as your blood counts. There was no evidence of bleeding and 
your blood counts were stable.

We attempted to have our social workers come see you as well as 
our addiction psychiatry team.
You indicated that although you had used suboxone in the past 
you were not interested in this medication. Our social workers 
also offered resources, but you declined, sharing that you would 
follow up with AHOPE.

Please follow up with your primary care doctor at ___ 
___ for the Homeless.
We have given you a script for Narcan.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___